US09034866B2
Methyl 9-bromo-10-fluoro-3-formyl-2,5-diazatetracyclo[11.1.1.0[2,6].0[7,12]]pentadeca-3,5,7(12),8,10-pentaene-4-carboxylate (125 mg) was saponified with LiOH in H2O/MeOH to give 90 mg of 9-bromo-10-fluoro-3-formyl-2,5-diazatetracyclo[11.1.1.0[2,6].0[7,12]]pentadeca-3,5,7(12),8,10-pentaene-4-carboxylic acid.

reactant | Methyl 9-bromo-10-fluoro-3-formyl-2,5-diazatetracyclo[11.1.1.0[2,6].0[7,12]]pentadeca-3,5,7(12),8,10-pentaene-4-carboxylate | 125 mg | BrC1=CC=2C3=NC(=C(N3C3CC(C2C=C1F)C3)C=O)C(=O)OC | C16H12BrFN2O3
reactant | LiOH | [Li+].[OH-]
solvent | H2O MeOH | O.CO
product | 9-bromo-10-fluoro-3-formyl-2,5-diazatetracyclo[11.1.1.0[2,6].0[7,12]]pentadeca-3,5,7(12),8,10-pentaene-4-carboxylic acid | 90 mg | BrC1=CC=2C3=NC(=C(N3C3CC(C2C=C1F)C3)C=O)C(=O)O | C15H10BrFN2O3
